US08309596B2
B) (7-Chloro-naphthalen-1-yl)-methanol
A 0.7M diisobutylaluminium hydride solution in CH2Cl2 is added dropwise at −78° to 22 g of 7-chloro-naphthalene-1-carboxylic acid methyl ester in CH2Cl2. After stirring at −78° for 1 hour, the mixture obtained is warmed up to 0°, quenched with aq. 10% sodium tartrate solution and stirred for further few minutes. The organic phase obtained is separated, washed with brine, dried and solvent is evaporated. The residue obtained is purified by flash chromatography on silica gel (eluent: cyclohexane/EtOAc 8/1 to 4/1) and the title compound is obtained.

reactant | diisobutylaluminium hydride | 0.7M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 7-chloro-naphthalene-1-carboxylic acid methyl ester | COC(=O)C1=CC=CC2=CC=C(C=C12)Cl | C12H9ClO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (7-Chloro-naphthalen-1-yl)-methanol | ClC1=CC=C2C=CC=C(C2=C1)CO | C11H9ClO
